### PR TITLE
feat: query complexity model for algorithms theory

### PR DESCRIPTION
**Pull request by Shreyas4991**
This is a highly squashed version of #275 with a smaller commit an comment history for ease of further reviewing. 

Superseded by #685. Further updates happen there. 

Authors: Shreyas Srinivas, Tanner Duve, Eric Wieser.

### CODE REVIEW

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean [hunk 1]
```diff
@@ -0,0 +1,100 @@
+/-
+Copyright (c) 2026 Shreyas Srinivas. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Shreyas Srinivas, Eric Wieser
+-/
+module
+
+public import Cslib.AlgorithmsTheory.QueryModel
+public import Cslib.AlgorithmsTheory.Algorithms.ListOrderedInsert
+public import Mathlib
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean]: We avoid full Mathlib imports like this, can you please minimize this (here and in all other modules)? We don't have the module aware `shake` setup in CI yet, but you should still be able to use `#min_imports`.

File: Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean [hunk 2]
```diff
@@ -0,0 +1,100 @@
...
+    simp_all only [List.length_cons, List.length_insertionSort]
+    obtain ⟨ih₁,ih₂⟩ := ih
+    obtain ⟨h₁,h₂⟩ := h
+    refine ⟨?_, ?_⟩
+    · clear h₂
+      rw [insertionSort_time_compares]
+      nlinarith [ih₁, h₁]
+    · clear h₁
+      rw [insertionSort_time_inserts]
+      nlinarith [ih₂, h₂]
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListInsertionSort.lean]: I'd have ended up with

```suggestion
    grind [insertOrd_complexity_upper_bound, List.length_insertionSort, SortOpsCost.le_def,
      insertionSort_time_compares, insertionSort_time_inserts]
```
instead of splitting all these `≤` by hand.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean [hunk 3]
```diff
@@ -0,0 +1,83 @@
...
+  simp [x_mem_l]
+
+lemma listLinearSearchM_time_complexity_upper_bound [BEq α] (l : List α) (x : α) :
+    (listLinearSearch l x).time ListSearch.natCost ≤ l.length := by
+  fun_induction l.elem x with
+  | case1 => simp [listLinearSearch]
+  | case2 => simp_all [listLinearSearch]
+  | case3 =>
+    simp_all [listLinearSearch]
+    grind
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: I think being more specific is preferable here

```suggestion
    simp [listLinearSearch]
    lia
```
It is fine to mix `simp`/`grind`, but I think the reason is just missing annotations in `FreeM`? Something to consider later.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean [hunk 4]
```diff
@@ -0,0 +1,83 @@
...
+
+-- This statement is wrong
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: Has @eric-wieser's concern about this statement been addressed yet?

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 5]
```diff
@@ -0,0 +1,96 @@
...
+  | cons head tail ih =>
+    obtain ⟨ih_compares, ih_inserts⟩ := ih
+    rw [insertOrd]
+    by_cases h_head : le x head
+    · simp [h_head]
+    · simp [h_head]
+      grind
+
+lemma insertOrd_sorted
+    (l : List α) (x : α) (le : α → α → Prop) [DecidableRel le] [Std.Total le] [IsTrans _ le] :
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: Is there a good reason to not be explicit with `IsTrans`?
```suggestion
    (l : List α) (x : α) (le : α → α → Prop) [DecidableRel le] [Std.Total le] [IsTrans α le] :
```

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 6]
```diff
@@ -0,0 +1,207 @@
...
+@[simp]
+lemma merge_eval (x y : List α) (le : α → α → Prop) [DecidableRel le] :
+    (merge x y).eval (sortModelNat le) = List.merge x y (le · ·) := by
+  fun_induction List.merge with
+  | case1 => simp
+  | case2 => simp
+  | case3 x xs y ys ihx ihy => simp_all [merge]
+  | case4 x xs y ys hxy ihx =>
+    rw [decide_eq_true_iff] at hxy
+    simp_all [merge, -not_le]
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Any reason to not just write?

```suggestion
  fun_induction List.merge with simp_all [merge]
```

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 7]
```diff
@@ -0,0 +1,207 @@
...
+    [LinearOrder α] (xs : List α) (le : α → α → Prop) [DecidableRel le] :
+    mergeSortNaive xs le = xs.mergeSort
+
+private lemma mergeSortNaive_Perm (xs : List α) (le : α → α → Prop) [DecidableRel le] :
+  (mergeSortNaive xs le).Perm xs := by
+  fun_induction mergeSortNaive
+  · simp
+  · expose_names
+    rw [←(List.take_append_drop (x.length / 2) x)]
+    grw [List.merge_perm_append, ← ih1, ← ih2]
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Please avoid `expose_names` unless strictly necessary. You can also clean up the rewriting style a bit:

```suggestion
  fun_induction mergeSortNaive with
  | case1 => simp
  | case2 x _ _ _ ih2 ih1 => grw [←List.take_append_drop _ x, List.merge_perm_append, ← ih1, ← ih2]
```

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 8]
```diff
@@ -0,0 +1,207 @@
...
+
+@[simp]
+private lemma mergeSort_eval (xs : List α) (le : α → α → Prop) [DecidableRel le] :
+    (mergeSort xs).eval (sortModelNat le) = mergeSortNaive xs le := by
+  fun_induction mergeSort with
+  | case1 xs h =>
+    simp [h, mergeSortNaive, Prog.eval]
+  | case2 xs h n left right ihl ihr =>
+    rw [mergeSortNaive, if_neg h]
+    have im := merge_eval left right
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: This `have` is unused
```suggestion
```

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean [hunk 9]
```diff
@@ -0,0 +1,96 @@
...
+    (insertOrd x l).eval (sortModel le) = l.orderedInsert le x := by
+  induction l with
+  | nil =>
+    simp [insertOrd, sortModel]
+  | cons head tail ih =>
+    by_cases h_head : le x head
+    · simp [insertOrd, h_head]
+    · simp [insertOrd, h_head, ih]
+
+-- to upstream
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: If you preface this comment with `TODO: ` it will open an issue that can be a helpful reminder.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean [hunk 10]
```diff
@@ -0,0 +1,207 @@
...
+    have htleft_len : T left.length ≤ T (n / 2) := T_monotone hleft_len
+    have htright_len : T right.length ≤ T ((n + 1) / 2) := T_monotone hright_len
+    grw [htleft_len, htright_len, hleft_len, hright_len]
+    have hs := some_algebra (n - 2)
+    have hsub1 : (n - 2) / 2 + 1 = n / 2 := by grind
+    have hsub2 : 1 + (1 + (n - 2)) / 2 = (n + 1) / 2 := by grind
+    have hsub3 : (n - 2) + 2 = n := by grind
+    have hsplit : n / 2 + (n + 1) / 2 = n := by grind
+    simpa [T, hsub1, hsub2, hsub3, hsplit, Nat.add_assoc, Nat.add_left_comm, Nat.add_comm]
+      using hs
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: This can be significantly shorter:
```suggestion
  fun_induction mergeSort with
  | case1 => simp [T]
  | case2 x =>
  simp only [FreeM.bind_eq_bind, Prog.time_bind]
  grind [some_algebra (x.length - 2), mergeSort_eval, merge_timeComplexity, mergeSortNaive_length]
```
If for pedagogical reasons you like showing some of the initial rewriting and the intermediate calculations you had with `grind`, you can still write something like
```lean
  | case2 x _ _ left right ih2 ih1 =>
    simp only [FreeM.bind_eq_bind, Prog.time_bind, mergeSort_eval]
    grw [merge_timeComplexity, ih1, ih2, mergeSortNaive_length, mergeSortNaive_length]
    set n := x.length
    grind =>
      have : left.length ≤ n / 2
      have : right.length ≤ (n + 1) / 2
      have : T left.length ≤ T (n / 2)
      have : T right.length ≤ T ((n + 1) / 2)
      have hs := some_algebra (n - 2)
      have : (n - 2) / 2 + 1 = n / 2
      have : 1 + (1 + (n - 2)) / 2 = (n + 1) / 2
      have : (n - 2) + 2 = n
      have : n / 2 + (n + 1) / 2 = n
      finish
```
which at the end only uses one call to the `grind` interactive mode. (Here a `have` with only a signature means the proof is by `grind`)

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean [hunk 11]
```diff
@@ -0,0 +1,54 @@
...
+namespace Algorithms
+
+open Prog
+
+/--
+A query type for searching elements in list. It supports exactly one query
+`compare l val` which returns `true` if the head of the list `l` is equal to `val`
+and returns `false` otherwise.
+-/
+inductive ListSearch (α : Type*) : Type → Type _ where
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean:38]: @eric-wieser Would it be better to be explicit about universes here? (Sorry if this was already addressed, it's hard to tell on the old PR)

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean [hunk 12]
```diff
@@ -0,0 +1,54 @@
...
+  | compare (a : List α) (val : α) : ListSearch α Bool
+
+
+/-- A model of the `ListSearch` query type that assigns the cost as the number of queries. -/
+@[simps]
+def ListSearch.natCost [BEq α] : Model (ListSearch α) ℕ where
+  evalQuery
+    | .compare l x => some x == l.head?
+  cost
+    | .compare _ _ => 1
```
Comment (chenson2018) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean]: For just a constant, I think

```suggestion
  cost _ := 1
```
is clearer.

**Review by chenson2018 — CHANGES_REQUESTED** [review]
This looks in much better shape now, just some relatively minor things from me:

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 5 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: I think we don't usually explicitly name anything that can be inferred?

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 7 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: Fair. The issue here is fun_induction doesn't have a code action similar to ordinary induction yet. So I used this style to avoid handcrafting these arguments. I can change this.

File: Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean (hunk 10 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: I think I'll take the longer proof you suggest. If this proof ever breaks, it would be easier to debug. Tbh that would be my argument against most grind. It is very arcane like sledgehammer and hard to debug when it goes wrong. I avoid simp and grind that hide high level proof structure, specifically complicated recursion or induction.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/MergeSort.lean]: On second thoughts the shorter proof could be better

File: Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean (hunk 5 above)
Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Algorithms/ListOrderedInsert.lean]: You can search Mathlib and see that for `IsTrans` it is much more common to be explicit. It seems obfuscatory when it's just a single character type variable.

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean (hunk 4 above)
Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: Now it has.

**Comment by Shreyas4991** [comment]
> This looks in much better shape now, just some relatively minor things from me:

@chenson2018 : I think I have addressed all your review comments so far.

**Review by chenson2018 — APPROVED** [review]
I pushed one small golf, and my other comments have been addressed. I left the two comments where I'd tagged @eric-wieser unresolved so they can be double checked. As usual, leaving for @fmontesi for final consideration.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean (hunk 11 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean:38]: This is a new comment; I don't think t matters much either way; `*` means "create a new universe", and because `_` is on the right, it means "use the only option that works. If you'd prefer the style with explicit names then I think it's totally reasonable to change it to be that instead.

File: CslibTests/QueryModel/ProgExamples.lean
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean:1]: I think the tests in this file would be a lot more valuable if:

* There was a module docstring that explained what is being tested
* Some of the `def`s had docstrings

File: CslibTests/QueryModel/ProgExamples.lean [hunk 13]
```diff
@@ -0,0 +1,123 @@
...
+  | .read l i => l[i]
+  | .swap l i j => l.swap i j
+  | .push a elem => a.push elem
+
+@[simps]
+def VecSortOps.worstCase [DecidableEq α] : Model (VecSortOps α) ℕ where
+  evalQuery := VecSortOps.eval
+  cost
+    | .write _ _ _ => 1
+    | .read _ _ =>  1
```
Comment (eric-wieser) [inline CslibTests/QueryModel/ProgExamples.lean]:
```suggestion
    | .read _ _ => 1
```

File: CslibTests/QueryModel/QueryExamples.lean [hunk 14]
```diff
@@ -0,0 +1,79 @@
...
+    | .write l _ _ => l.length
+    | .find l _ =>  l.length
+    | .get l _ => l.length
+
+def ListOps.binSearchWorstCase [BEq α] : Model (ListOps α) ℕ where
+  evalQuery := ListOps.eval
+  cost
+    | .find l _ => 1 + Nat.log 2 (l.length)
+    | .write l _ _ => l.length
+    | .get l _ => l.length
```
Comment (eric-wieser) [inline CslibTests/QueryModel/QueryExamples.lean:72]: These should both be simps and have docstrings.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean (hunk 11 above)
Comment (chenson2018) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean:38]: I understood the meaning, but don't have a great intuition for when universe unification matters for performance. We usually use `Type*`, so if it doesn't matter this seems fine.

File: CslibTests/QueryModel/ProgExamples.lean
Comment (chenson2018) [reply CslibTests/QueryModel/ProgExamples.lean:1]: I agree. I understood the examples from the actual modules much more easily than these, probably in part because of the docs.

Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean:1]: So the tests were originally examples that helped me develop and refine the theory. They are not "testing" anything in the conventional sense. Just giving additional examples of queries you can define (since we have only two examples in the main library).

File: CslibTests/QueryModel/QueryExamples.lean (hunk 14 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/QueryExamples.lean:72]: It's not `simps` because it is an illustrative example that is not being used anywhere in the library yet. These are essentially tutorial examples at this point.

Comment (eric-wieser) [reply CslibTests/QueryModel/QueryExamples.lean:72]: Tutorials should show the user how to use the library, and for now we've decided that the best way to use it is with `simps`

File: CslibTests/QueryModel/ProgExamples.lean
Comment (eric-wieser) [reply CslibTests/QueryModel/ProgExamples.lean:1]: To be clear, I'm not saying "let's delete these" but rather "let's make them a little more useful to readers"

File: Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean (hunk 11 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSearch.lean:38]: I should point out that replacing the second type with `Type*` gives a type error

File: CslibTests/QueryModel/ProgExamples.lean
Comment (Shreyas4991) [reply CslibTests/QueryModel/ProgExamples.lean:1]: I have added some docstrings. If these are going to cause delays in merging this PR though, I am happy for maintainers to delete them. I just think this model would be easier to understand with these examples.

File: CslibTests/QueryModel/QueryExamples.lean (hunk 14 above)
Comment (Shreyas4991) [reply CslibTests/QueryModel/QueryExamples.lean:72]: Fine. I have added it.

**Comment by eric-wieser** [comment]
Note that the co-authored-by lines in the first commit are not in a form recognized by git

File: Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean (hunk 4 above)
Comment (eric-wieser) [reply Cslib/AlgorithmsTheory/Algorithms/ListLinearSearch.lean]: Yes, this looks better now

**Comment by Shreyas4991** [comment]
> Note that the co-authored-by lines in the first commit are not in a form recognized by git

I am not a practical git expert. Could you tell me exactly what to do to fix it? The previous commit where I inserted is not the top commit now so I don't know if the commit --amend thing can change this commit's message

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 15]
```diff
@@ -0,0 +1,149 @@
...
+
+end SortOpsCostModel
+
+section NatModel
+
+/--
+A model for comparison sorting on lists with only the comparison operation. This
+is used in mergeSort.
+-/
+inductive SortOpsCmp.{u} (α : Type u) : Type → Type _ where
```
Comment (eric-wieser) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I claim that we should reserve the shorter `SortOps` name for this type, as the other type is neither particularly applicable to most algorithm nor safe for actually counting `insertHead` operations. I suggest `SortOps` and `SortOpsInsert`

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: Okay. I will change it.

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]: I changed it to `SortOpsInsertHead` I hope that is a better name

**Comment by tannerduve** [comment]
> > Note that the co-authored-by lines in the first commit are not in a form recognized by git
> 
> I am not a practical git expert. Could you tell me exactly what to do to fix it? The previous commit where I inserted is not the top commit now so I don't know if the commit --amend thing can change this commit's message

you could git commit amend with `Co-authored-by: First Last <username@users.noreply.github.com>` at the bottom, one line per coauthor. when you merge, all the commits get squashed so I dont think it matters which commit you amend, but note that this would mean all coauthors get equal contribution credit on github, up to you if that matters

**Comment by Shreyas4991** [comment]
> Co-authored-by: First Last <username@users.noreply.github.com>



> > > Note that the co-authored-by lines in the first commit are not in a form recognized by git
> > 
> > 
> > I am not a practical git expert. Could you tell me exactly what to do to fix it? The previous commit where I inserted is not the top commit now so I don't know if the commit --amend thing can change this commit's message
> 
> you could git commit amend with `Co-authored-by: First Last <username@users.noreply.github.com>` at the bottom, one line per coauthor. when you merge, all the commits get squashed so I dont think it matters which commit you amend, but note that this would mean all coauthors get equal contribution credit on github, up to you if that matters

I am not terribly concerned about this. If it ever becomes relevant (let's say this model becomes a paper), there's a long commit trail across two branches and PRs which contains our commit histories, from which we know who contributed what. At least, all I need to do is not delete my branch for this PR, and likewise for all co-authors. 

I have pushed the amended commit. Hope it works now.

**Comment by tannerduve** [comment]
https://docs.github.com/en/pull-requests/committing-changes-to-your-project/creating-and-editing-commits/creating-a-commit-with-multiple-authors looks like you need to add a space before the list of coauthors, also you mistyped Eric's entry. and maybe better to use my official email associated with GitHub, so `Co-authored-by: Tanner Duve <tannerduve@gmail.com>` not sure if you need to do the same with Eric

**Comment by Shreyas4991** [comment]
If the commit co author thing doesn't work now, then I am at my wit's end.

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 16]
```diff
@@ -0,0 +1,150 @@
...
+public import Mathlib.Data.Nat.Basic
+public import Mathlib.Order.Basic
+public import Mathlib.Tactic.FastInstance
+@[expose] public section
+
+/-!
+# Query Type for Comparison Search in Lists
+
+In this file we define two query types `SortOps` which is suitable for insertion sort, and
+`SortOps`for comparison based searching in Lists. We define a model `sortModel` for `SortOps`
```
Comment (Arleee1) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean:20]: Nit: Is one of the `SortOps` supposed to be different, or are they supposed to be duplicated?

Comment (Shreyas4991) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean:20]: We changed the name to the shorter  SortOps since we would like that to be the default comparison sort model

Comment (Arleee1) [reply Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean:20]: Sorry about that!

File: Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean [hunk 17]
```diff
@@ -0,0 +1,150 @@
...
+namespace Algorithms
+
+open Prog
+
+/--
+A model for comparison sorting on lists.
+-/
+inductive SortOpsInsertHead (α : Type) : Type → Type  where
+  /-- `cmpLE x y` is intended to return `true` if `x ≤ y` and `false` otherwise.
+  The specific order relation depends on the model provided for this typ. e-/
```
Comment (Arleee1) [inline Cslib/AlgorithmsTheory/Models/ListComparisonSort.lean]:
```suggestion
  The specific order relation depends on the model provided for this type. -/
```
[nit] typo
